US07244851B2
2-Amino-3-phenyl-thiophene (12.0 mmol) in THF (7 ml) was treated with di-tert-butyl dicarbonate (2.97 g, 13.3 mmol) and diisopropylethylamine (3.15 ml, 18.1 mmol) at ambient temperature for 60 hr, and the mixture concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded 2-(N-Boc-amino)-3-phenyl-thiophene (1.98 g, 59%).

reactant | 2-Amino-3-phenyl-thiophene | 12.0 mmol | NC=1SC=CC1C1=CC=CC=C1 | C10H9NS
reactant | di-tert-butyl dicarbonate | 13.3 mmol, 2.97 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 18.1 mmol, 3.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(N-Boc-amino)-3-phenyl-thiophene | 1.98 g, 59% | C(=O)(OC(C)(C)C)NC=1SC=CC1C1=CC=CC=C1 | C15H17NO2S
